US08809525B2
6-(3-Methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (106 mg, 47%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.21 g, 0.8 mmol) and 3-methoxyphenyl boronic acid (0.137 g, 0.90 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.8 mmol, 0.21 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-methoxyphenyl boronic acid | 0.90 mmol, 0.137 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 6-(3-Methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 106 mg, 47% | COC=1C=C(C=CC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C16H14N4O
